US05756508
A mixture of 15 g of ethyl 4-oxo-3-piperidine carboxylate hydrochloride, 500 mL of methylene chloride, 16 g of di-tert-butyldicarbonate and 15 mL of triethylamine was stirred for 4 days at room temperature. The resulting mixture was washed with 100 mL of sat'd. sodium carbonate, dried over MgSO4 and concentrated under reduced pressure. Drying under vacuum overnight gave 19 g of ethyl 1-tert-butyloxycarbonyl-4-oxo-3-piperidine carboxylate as a solid: 1H NMR (400 MHz, CDCl3) 12 (s, 1H), 4.3 (dd, 2H), 4.1 (s, 2H), 3.6 (m, 2H), 2.4 (m, 2H), 1.5 (s, 9H), 1.3 (t, 3H).

reactant | ethyl 4-oxo-3-piperidine carboxylate hydrochloride | 15 g | Cl.O=C1C(CNCC1)C(=O)OCC
reactant | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
reactant | di-tert-butyldicarbonate | 16 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
product | ethyl 1-tert-butyloxycarbonyl-4-oxo-3-piperidine carboxylate | 19 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(=O)OCC | C13H21NO5
